US07030267B2
To a solution of 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid (2.05 g, 8.0 mmol) in dry 1,4-dioxane (40 mL) was added 4N HCl (40 mL, in 1,4-dioxane). The reaction mixture was stirred at room temperature overnight and ether was added (100 mL). The white solid was collected and dried to give 1-aminomethyl-2-isopropyl-cyclopropanecarboxylic acid hydrochloride (1.35 g, 88%): mp: 245–246° C.; 1H NMR (300 MHz, D2O) δ 0.94 (d, J=6.5 Hz, 3H), 0.96 (m, 1H), 1.05 (d, J=6.4 Hz, 3H), 1.23–1.31 (m, 1H), 1.49–1.59 (m, 2H), 2.85 (d, J=13.7 Hz, 1H), 3.83 (d, J=13.7 Hz, 1H); 13C NMR (75 MHz, D2O) δ 22.3, 23.9, 27.8, 30.8, 39.6, 41.7, 179.6; MS (APCI) m/z 158 [M+H]+. Anal. Calcd. For C8H15NO2—HCl: C, 49.61; H, 8.33; N, 7.23; Cl, 18.31. Found: C, 49.76; H, 8.44; N, 7.11; Cl, 18.48.

reactant | 1-(tert-butoxycarbonylamino-methyl)-2-isopropyl-cyclopropanecarboxylic acid | 8.0 mmol, 2.05 g | C(C)(C)(C)OC(=O)NCC1(C(C1)C(C)C)C(=O)O | C13H23NO4
reactant | HCl | 4N, 40 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 1-aminomethyl-2-isopropyl-cyclopropanecarboxylic acid hydrochloride | 1.35 g, 88% | Cl.NCC1(C(C1)C(C)C)C(=O)O | InChI=1S/C8H15NO2.ClH/c1-5(2)6-3-8(6,4-9)7(10)11;/h5-6H,3-4,9H2,1-2H3,(H,10,11);1H
